US07700591B2
A cooled (0° C.) solution of tert-butyl 4-(3-hydroxy-1,2-benzisoxazol-5-yl)piperidine-1-carboxylate (286 mg, 0.898 mmol) in THF (5 mL) was treated with toluenesulfonyl chloride (188 mg, 0.988 mmol) followed by triethylamine (144 μL, 1.03 mmol). The reaction mixture was permitted to warm to rt and stir for 1.5 h. The reaction mixture was filtered, and the filtrate was concentrated. Purification by MPLC (silica, 50% ethyl acetate/hexanes) provided tert-butyl 4-(3-{[(4-methylphenyl)sulfonyl]oxy}-1,2-benzisoxazol-5-yl)piperidine-1-carboxylate. 1H NMR (500 MHz, CDCl3) δ 7.94 (d, J=8.5 Hz, 2H), 7.47 (s, 3H), 7.41 (d, J=8.0 Hz, 2H), 4.31 (br m, 2H), 2.85 (br m, 2H), 2.80 (tt, J=12, 3.5 Hz), 2.50 (s, 3H), 1.87 (br d, J=13 Hz, 2H), 1.64 (dq, J=4.5, 13 Hz, 2H), 1.52 (s, 9H). ESI-MS calc. for C24H28N2O6S: 472; Found: 473 (M+H).

reactant | tert-butyl 4-(3-hydroxy-1,2-benzisoxazol-5-yl)piperidine-1-carboxylate | 0.898 mmol, 286 mg | OC1=NOC2=C1C=C(C=C2)C2CCN(CC2)C(=O)OC(C)(C)C | C17H22N2O4
reactant | toluenesulfonyl chloride | 0.988 mmol, 188 mg | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 1.03 mmol, 144 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(3-{[(4-methylphenyl)sulfonyl]oxy}-1,2-benzisoxazol-5-yl)piperidine-1-carboxylate | CC1=CC=C(C=C1)S(=O)(=O)OC1=NOC2=C1C=C(C=C2)C2CCN(CC2)C(=O)OC(C)(C)C | C24H28N2O6S
